US09290485B2
To a suspension of 1,2-Dimethyl-1H-benzo[d]imidazole-5-carboxylic acid (crude, 2.54 g, approx. 9.35 mmol) in MeOH (15.5 ml)/toluene (78 ml) Trimethylsilyldiazomethane (2 M solution in hexane, 7.0 ml, 14 mmol) was added at 0-10° C. The reaction mixture was stirred at it for 1 hour. The reaction mixture was evaporated under reduced pressure. The residue was taken up in DCM, Remaining insoluble solid was filtered off. The filtrate was evaporated again to dryness to afford crude Methyl 1,2-dimethyl-1H-benzo[d]imidazole-5-carboxylate

reactant | 1,2-Dimethyl-1H-benzo[d]imidazole-5-carboxylic acid | approx. 9.35 mmol, 2.54 g | CN1C(=NC2=C1C=CC(=C2)C(=O)O)C | C10H10N2O2
reactant | toluene | 14 mmol, 2 M, 78 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 15.5 ml | CO | CH4O
product | Methyl 1,2-dimethyl-1H-benzo[d]imidazole-5-carboxylate | CN1C(=NC2=C1C=CC(=C2)C(=O)OC)C | C11H12N2O2
